US07495007B2
In a manner similar to the method described in example 1b, 3-methyl-benzaldehyde (1.30 g, 10.5 mmol) (Matrix) was used as the starting material in place of 3-chloro-benzaldehyde to react with 1,1,1,3,3,3-hexamethyldisilazane (2.18 mL, 10.5 mmol), n-butyllithium (2.5 M, 4.2 mL, 10.5 mmol), trimethylsilyl chloride (1.33 mL, 10.5 mmol), triethylamine (1.9 mL, 13.6 mmol) and acetyl chloride (0.97 mL, 13.6 mmol) to give 1-(3-methylphenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | 3-methyl-benzaldehyde | 10.5 mmol, 1.30 g | CC=1C=C(C=O)C=CC1 | C8H8O
reactant | 3-chloro-benzaldehyde | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 10.5 mmol, 2.18 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | 10.5 mmol, 2.5 M, 4.2 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 10.5 mmol, 1.33 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 13.6 mmol, 1.9 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 13.6 mmol, 0.97 mL | C(C)(=O)Cl | C2H3ClO
product | 1-(3-methylphenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene | CC=1C=C(C=CC1)C=NC(=C)O[Si](C)(C)C | C13H19NOSi
